US08530667B2
The 10-oxa-tricyclo[5.2.1.0*2,6*]dec-8-ene-3,5-dione (10.5 g) is dissolved in methanol (700 ml). The methanol solution is passed at a rate of 1.5 ml/min through a Thalis H-cube apparatus (from Thalis nanotec) set-up at 40° C. and 40 bar and fitted with a 10% Pd/C cartridge. The so obtained solution is evaporated to give 1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione (9.2 g).

reactant | 10-oxa-tricyclo[5.2.1.0*2,6*]dec-8-ene-3,5-dione | 10.5 g | C12C3C(CC(C3C(C=C1)O2)=O)=O | C9H8O3
reactant | methanol | 700 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 9.2 g | CC12C3C(CC(C3C(CC1)O2)=O)=O | C10H12O3
